US08686022B2
Methyl 3-amino-5-tert-butyl-2-methoxy-benzoate
2.7 g methyl 5-tert-butyl-2-methoxy-3-nitro-benzoate are dissolved in 120 ml of methanol, combined with 270 mg of 10% palladium on charcoal and hydrogenated for 12 hours at ambient temperature and 4 bar hydrogen pressure. Then the catalyst is filtered off, the solvents are eliminated in vacuo and the residue thus obtained is further reacted directly.

reactant | methyl 5-tert-butyl-2-methoxy-3-nitro-benzoate | 2.7 g | C(C)(C)(C)C=1C=C(C(=C(C(=O)OC)C1)OC)[N+](=O)[O-] | C13H17NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on charcoal | 270 mg | [Pd] | Pd
product | Methyl 3-amino-5-tert-butyl-2-methoxy-benzoate | NC=1C(=C(C(=O)OC)C=C(C1)C(C)(C)C)OC | C13H19NO3
